US09388189B2
a) 4,6-Dichloro-N-(3-morpholinopropyl)pyrimidine-5-carboxamide
4,6-Dichloropyrimidine-5-carbonyl chloride (600 mg, 2.84 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dissolved in dichloromethane (10 ml) and TEA (395 μl, 2.83 mmol) was added. To this solution, 3-morpholinopropan-1-amine (410 mg, 2.84 mmol) was added dropwise and the mixture was stirred for 30 min. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The crude (1.13 g, 87% purity, 100% yield) was used in the next synthetic step without further purification.

reactant | 4,6-Dichloropyrimidine-5-carbonyl chloride | 2.84 mmol, 600 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | 3-morpholinopropan-1-amine | 2.84 mmol, 410 mg | O1CCN(CC1)CCCN | C7H16N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4,6-Dichloro-N-(3-morpholinopropyl)pyrimidine-5-carboxamide | 100% yield | ClC1=NC=NC(=C1C(=O)NCCCN1CCOCC1)Cl | C12H16Cl2N4O2
